US08012981B2
(3R,5S)-1-[(4-Nitrophenyl)methyl]-3,5-dimethylpiperazine (D57)
The title compound was prepared from 4-nitrobenzaldehyde and (2R,6S)-2,6-dimethylpiperazine using a method similar to that described for D21 in Description 21A. MS (ES): MH+ 250.2.

reactant | 4-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | (2R,6S)-2,6-dimethylpiperazine | C[C@H]1N[C@H](CNC1)C | C6H14N2
product | (3R,5S)-1-[(4-Nitrophenyl)methyl]-3,5-dimethylpiperazine | [N+](=O)([O-])C1=CC=C(C=C1)CN1C[C@H](N[C@H](C1)C)C | C13H19N3O2
